US04061761
3-Allyl-4-(4-chloro-3-sulfamoylphenyl)-2-(3-pyridylmethylimino)-1,3-thiazolidine-4-ol-hydrobromide
4.7 g of 2-bromo-4'-chloro-3'-sulfamoylacetophenone and 3 g of 1-allyl-3-(3-pyridylmethyl)-thiourea were reacted as prescribed in Example 23 and the end product was filtered off. Colorless solid body, decomposition beginning at 82° C γC=N 1605 cm-1.

reactant | 2-bromo-4'-chloro-3'-sulfamoylacetophenone | 4.7 g | BrCC(=O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O | C8H7BrClNO3S
reactant | 1-allyl-3-(3-pyridylmethyl)-thiourea | 3 g | C(C=C)NC(=S)NCC=1C=NC=CC1 | C10H13N3S
product | 3-Allyl-4-(4-chloro-3-sulfamoylphenyl)-2-(3-pyridylmethylimino)-1,3-thiazolidine-4-ol-hydrobromide | Br.C(C=C)N1C(SCC1(O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O)=NCC=1C=NC=CC1 | InChI=1S/C18H19ClN4O3S2.BrH/c1-2-8-23-17(22-11-13-4-3-7-21-10-13)27-12-18(23,24)14-5-6-15(19)16(9-14)28(20,25)26;/h2-7,9-10,24H,1,8,11-12H2,(H2,20,25,26);1H
